US04001419
A solution of cyclopropane carboxylic acid chloride (1.2 ml.) in methylene chloride (10 ml.) is added dropwise with stirring to a mixture of 4-methoxyxanthene-9-spiro-4'-piperidine (2.0 g.) and triethylamine (1.6 ml.) in methylene chloride (40 ml.) at 5° C. The mixture is allowed to reach room temperature and stirred overnight. The mixture is washed with 3N hydrochloric acid, 3N sodium hydroxide solution and water, dried MgSO4 and the methylene chloride evaporated to dryness, to give 1'-cyclopropylcarbonyl-4-methoxyxanthene-9-spiro-4'-piperidine (I.R. amide band 1620 cm.-1 ; t.l.c. -- single spot) which is used without further purification.

reactant | cyclopropane carboxylic acid chloride | 1.2 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 4-methoxyxanthene-9-spiro-4'-piperidine | 2.0 g | COC1=CC=CC2=C1OC1=CC=CC=C1C21CCNCC1 | C18H19NO2
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1'-cyclopropylcarbonyl-4-methoxyxanthene-9-spiro-4'-piperidine | C1(CC1)C(=O)N1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)OC | C22H23NO3
